US07141586B2
2-[3-(Methylsulfanyl)phenoxy]nicotinic acid (200 mg, 0.77 mmol) was dissolved in dimethylformamide (5 ml) and triethylamine (427 ul, 3.07 mmol) was added followed by cyclohexylamine hydrochloride (88 ug, 0.77 mmol), 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride (294 mg, 1.53 mmol) and 1-hydroxybenzotriazole (114 mg, 0.84 mmol). The reaction was stirred under nitrogen at room temperature for 18 h and the solvent was removed under reduced pressure. The residue was partitioned between water (50 ml) and diethyl diethyl ether (50 ml). The organic phase was washed with brine, dried over MgSO4 and the solvent was removed under reduced pressure. The residue was purified by flash column chromatography using ethyl acetate:cyclohexane (20:80 to 35:65) as eluant to give a white solid which was recrystallised from diethyl diethyl ether/pentane to give N-cyclohexyl-2-[3-(methylsulfanyl)phenoxy]nicotinamide (134 mg) as a white solid.

reactant | 2-[3-(Methylsulfanyl)phenoxy]nicotinic acid | 0.77 mmol, 200 mg | CSC=1C=C(OC2=C(C(=O)O)C=CC=N2)C=CC1 | C13H11NO3S
reactant | triethylamine | 3.07 mmol, 427 ul | C(C)N(CC)CC | C6H15N
reactant | cyclohexylamine hydrochloride | 0.77 mmol, 88 ug | Cl.C1(CCCCC1)N
reactant | 1-(3-dimethylaminopropyl)-3-ethylcarbodiimide hydrochloride | 1.53 mmol, 294 mg | Cl.CN(CCCN=C=NCC)C
reactant | 1-hydroxybenzotriazole | 0.84 mmol, 114 mg | ON1N=NC2=C1C=CC=C2 | C6H5N3O
solvent | dimethylformamide | 5 ml | CN(C=O)C | C3H7NO
product | N-cyclohexyl-2-[3-(methylsulfanyl)phenoxy]nicotinamide | 134 mg | C1(CCCCC1)NC(C1=C(N=CC=C1)OC1=CC(=CC=C1)SC)=O | C19H22N2O2S
